US06420503B1
N-(bicyclo(2.2.1)hept-5-ene-2-ylmethyl)-1,1,1-trifluoro methanesulfonamide/Maleic Anhydride Copolymers
The N-(bicyclo(2.2.1)hept-5-ene-2-ylmethyl)1,1,1-trifluoro methanesulfonamide (7.5 g, 30 mmol), Maleic anhydride(2.90 g, 30 mmol), 2,2′-azabisisobutyronitrile(AIBN) (0.40 g, 2.4 mmol) and 30 gr. of dry tetrahydrofuran were placed in a round bottom flask equipped with a water condenser and a firestone valve. The solution was evacuated and purged with nitrogen (4 times) with the aid of the firestone valve. The solution was heated to reflux for 18 hrs. The polymer solution was cooled, diluted with 20 ml of acetone and precipitated dropwise into 800 ml of hexane. The precipitated polymer was separated by decantation, rinsed twice with hexane's and dried under Vacuum (yield 3.3 g). Reprecipitating from acetone into mixtures of hexane/isopropanol (90/10) further purified the isolated polymer. %). The polymer was further characterized using GPC, IR and NMR. The Weight Avg. Mol. Wt of the polymer was observed to be 1,350. The glass transition temperature of the alternating copolymer was found via DSC to be 79° C.

reactant | N-(bicyclo(2.2.1)hept-5-ene-2-ylmethyl)1,1,1-trifluoro methanesulfonamide | 30 mmol, 7.5 g | C12C(CC(C=C1)C2)CNS(=O)(=O)C(F)(F)F | C9H12F3NO2S
reactant | Maleic anhydride | 30 mmol, 2.90 g | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(bicyclo(2.2.1)hept-5-ene-2-ylmethyl)-1,1,1-trifluoro methanesulfonamide Maleic Anhydride | C12C(CC(C=C1)C2)CNS(=O)(=O)C(F)(F)F.C1(\C=C/C(=O)O1)=O | InChI=1S/C9H12F3NO2S.C4H2O3/c10-9(11,12)16(14,15)13-5-8-4-6-1-2-7(8)3-6;5-3-1-2-4(6)7-3/h1-2,6-8,13H,3-5H2;1-2H
